US04137230
In 150 ml of chloroform was dissolved 28 g (0.18 mol) of N-methyl-L-alanine methyl ester hydrochloride, followed by addition of 27 g (0.21 mol) of propionic anhydride and 33 ml of triethylamine. The mixture was allowed to stand at room temperature overnight. With the addition of 100 ml of water, the reaction mixture was stirred at room temperature for 30 minutes. Thereafter, 600 ml of ethyl acetate was added and the organic layer was washed with aqueous sodium hydrogen carbonate and water in the order mentioned, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. In the above manner, N-methyl-N-propionyl-L-alanine methyl ester was obtained as a yellow oil. NMR spectrum (CDCl3) δ: 1.15(3H,t,J=7Hz), 1.40(3H,d,J=7Hz), 2.40(2H,q,J=7Hz), 2.93(3H,s), 3.70(3H,s), 5.27(1H,q, J=7Hz)

reactant | N-methyl-L-alanine methyl ester hydrochloride | 0.18 mol, 28 g | Cl.COC([C@@H](NC)C)=O
reactant | propionic anhydride | 0.21 mol, 27 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-propionyl-L-alanine methyl ester | COC([C@@H](N(C(CC)=O)C)C)=O | C8H15NO3
